US04216221
A solution of 8.1 g (0.05 mole) of 1,1'-carbonyldiimidazole in 20 ml of methylene chloride is added, with vigorous stirring, to a solution of 5.7 g (0.05 mole) of 1-aminomethyl-2-pyrrolidinone in 20 ml of methylene chloride cooled to -70° C., whereafter 8.5 g (0.05 mole) of 1-aminomethyloctahydro-2H-azonin-2-one in 20 ml of methylene chloride are also added. After the addition, the reaction mixture is heated under reflux for 2 hours. After evaporation of the solvent under reduced pressure, the residue obtained is purified by chromatography on silica (eluent: chloroform). 5.7 g (0.0184 mole) of 1-[(octahydro-2-oxo-1H-azonin-1-yl)methyl]-3-[(2-oxopyrrolidino)methyl]-urea are thus obtained.

reactant | 1,1'-carbonyldiimidazole | 0.05 mole, 8.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-aminomethyl-2-pyrrolidinone | 0.05 mole, 5.7 g | NCN1C(CCC1)=O | C5H10N2O
reactant | 1-aminomethyloctahydro-2H-azonin-2-one | 0.05 mole, 8.5 g | NCN1C(CCCCCCC1)=O | C9H18N2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[(octahydro-2-oxo-1H-azonin-1-yl)methyl]-3-[(2-oxopyrrolidino)methyl]-urea | 0.0184 mole, 5.7 g, Yield: 36.7% | O=C1N(CCCCCCC1)CNC(=O)NCN1C(CCC1)=O | C15H26N4O3
